US08293768B2
Synthesis of ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate
To a stirred suspension of ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate (3.00 g, 11.8 mmol) in anhydrous N,N-dimethylformamide (20 mL) under nitrogen atmosphere was added in one portion sodium hydride (60% in mineral oil, 0.57 g, 14.15 mmol). The mixture was stirred for 1 hour, then 4-(trifluoromethyl)benzyl bromide (3.39 g, 14.16 mmol) in anhydrous N,N-dimethylformamide (10 mL) was added. The resulting reaction mixture was stirred for 16 hours, then was partitioned between ethyl acetate (200 mL), water (100 mL) and brine (50 mL). The aqueous layer was extracted with ethyl acetate (200 mL) and the combined organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with 10% ethyl acetate in hexanes to afford the title compound as a cream solid in 89% yield (4.32 g): 1H NMR (300 MHz, CDCl3) δ 7.61 (d, J=8.1 Hz, 2H), 7.43 (d, J=8.1 Hz, 2H), 6.17 (s, 1H), 4.53 (s, 2H), 4.28 (q, J=7.1 Hz, 2H), 3.86-3.79 (m, 2H), 3.50-3.43 (m, 2H), 2.50 (s, 3H), 1.34 (t, J=7.1 Hz, 3H); MS (ES+) m/z 413.3 (M+1).

reactant | ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate | 11.8 mmol, 3.00 g | CC1=C(SC(=C1)N1C(NCC1)=O)C(=O)OCC | C11H14N2O3S
reactant | sodium hydride | 14.15 mmol, 0.57 g | [H-].[Na+]
reactant | 4-(trifluoromethyl)benzyl bromide | 14.16 mmol, 3.39 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | ethyl 3-methyl-5-(2-oxo-3-(4-(trifluoromethyl)benzyl)imidazolidin-1-yl)thiophene-2-carboxylate | 89% yield | CC1=C(SC(=C1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OCC | C19H19F3N2O3S
